Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base / naproxen
 
Attending: ___
 
Chief Complaint:
Chest pressure

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of GERD, HLD, presenting with intermittent 
chest
pressure, non-radiating, after an acute episode of chest 
pressure
on ___ when she was having a bowel movement.  Per
patient, she was having diarrhea and therefore not straining at
the time.  She says she felt numb from the waist up with a
pins-and-needles sensation, and endorsed shortness of breath,
lightheadedness/dizziness, and feeling like she was going to 
pass
out but no LOC.  The episode lasted less than 10 minutes and her
symptoms resolved after taking an expired nitro.  She denies
diaphoresis, nausea.  The next day she felt very fatigued and 
was
bedridden.  Since ___ she has been experiencing 
intermittent
chest pressure, including last night while lying flat.  She 
notes
that she typically sleeps on 2 pillows but denies orthopnea or
waking up in the middle of night gasping for breath. 
 
Per patient and husband (by bedside), she has been experiencing
intermittent chest pressure in her mid chest for the last year. 
She is unable to describe whether the chest pressure is
positional or triggered by exertion.  She felt this chest
pressure on ___ prior to the ___ episode and believes 
she
took a nitro at that time as well, although she attributes this
to abdominal discomfort from hard stool at the time. She says 
she
has only needed to take nitro once or twice in the last year. 
She also endorses worsening fatigue over the last 6 months.  She
denies leg swelling.  She endorses reduced PO intake due to poor
appetite and no increased sodium consumption in her diet.  At
baseline she can climb a flight of stairs without dyspnea and is
not dyspneic on exertion with routine activities. She denies a
history of stroke, blood clots, Afib or other arrhythmias.  She
was recently started on (likely) gemfibrozil 1.5 months ago for
elevated triglycerides but stopped 2 weeks ago because she
developed hives and pruritus. She no longer follows regularly
with a cardiologist.

She recalls getting an exercise stress echo in ___ for new 
onset
chest pressure. Per cath report history from ___, there was
echocardiographic evidence of inducible apical and septal
ischemia, so patient was referred for left heart cath, which
showed slow flow consistent with microvascular dysfunction but 
no
lesions requiring revascularization.

In the ED:
- Initial vitals:  96.7 °F (35.9 °C), HR 64, RR 18, BP 150/80, 
O2
Sat 98
- EKG:  (___) no STE,  sinus rhythm, rate 52 bpm
- Labs/studies notable for:  trop 0.05, CKMB 2
- Patient was given:  ASA 81, heparin gtt,  metop, nitro SL,
omprazole
- Vitals on transfer:  97.6 °F (36.4 °C), HR 52, RR 17, BP
139/63, O2 Sat 96 RA
 
On the floor, patient was comfortable, asymptomatic except for
occasional "twinges" that she describes as chest pressure.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: ___
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
GERD

 
Social History:
___
Family History:
Sister: ___ breast cancer
Aunt: Type 1 diabetes
Mother: ___ cardiac disease
Mother: DVT/PE
Father: ___ cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================
VITALS:  24 HR Data (last updated ___ @ 1547)
    Temp: 98.2 (Tm 98.2), BP: 125/67, HR: 52, RR: 18, O2 sat:
96%, O2 delivery: RA
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. 
NECK: Supple, no JVD at 90°
CARDIAC: RRR, normal S1, S2, no M/R/G, chest wall non-tender to
palpation
LUNGS: CTAB, no rales/rhonchi/wheezing, no increased work of
breathing
ABDOMEN: Soft, NTND. No HSM
EXTREMITIES: No clubbing or cyanosis.  2+ ___ pulses,
trace edema in lower extremities bilaterally
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:
========================
Vitals:
24 HR Data (last updated ___ @ 341)
    Temp: 98.3 (Tm 98.5), BP: 104/63 (99-125/63-67), HR: 55
(52-62), RR: 16 (___), O2 sat: 93% (93-98), O2 delivery: Ra,
Wt: 156.1 lb/70.81 kg  

Is/Os:
___ Total Output: 0ml Urine Amt: 0ml 
___ Total Output: 600ml Urine Amt: 600ml 

GENERAL: Lying comfortably in bed in NAD
HEENT: NCAT. Sclera anicteric. 
NECK: Supple, no JVD at 90°
CARDIAC: RRR, normal S1, S2, no M/R/G
LUNGS: CTAB, no rales/rhonchi/wheezing, no increased work of
breathing
ABDOMEN: Soft, NTND
EXTREMITIES: No clubbing or cyanosis.  good distal pulses,
trace edema in lower extremities bilaterally
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.    

 
Pertinent Results:
Hematology:
___ 10:06PM BLOOD WBC-7.4 RBC-4.39 Hgb-14.1 Hct-40.4 MCV-92 
MCH-32.1* MCHC-34.9 RDW-12.3 RDWSD-41.7 Plt ___
___ 05:55AM BLOOD WBC-6.3 RBC-4.32 Hgb-13.8 Hct-39.9 MCV-92 
MCH-31.9 MCHC-34.6 RDW-12.5 RDWSD-42.2 Plt ___
___ 06:45AM BLOOD WBC-6.8 RBC-4.52 Hgb-14.6 Hct-42.1 MCV-93 
MCH-32.3* MCHC-34.7 RDW-12.6 RDWSD-43.3 Plt ___
___ 10:06PM BLOOD Neuts-55.7 ___ Monos-5.8 Eos-4.5 
Baso-0.7 Im ___ AbsNeut-4.13 AbsLymp-2.44 AbsMono-0.43 
AbsEos-0.33 AbsBaso-0.05

Coagulation:
___ 10:06PM BLOOD Plt ___
___ 05:55AM BLOOD ___ PTT-31.5 ___
___ 05:55AM BLOOD Plt ___
___ 02:04PM BLOOD ___ PTT-57.7* ___
___ 07:20PM BLOOD PTT-59.0*
___ 06:45AM BLOOD ___ PTT-81.4* ___
___ 06:45AM BLOOD Plt ___

Chemistries:
___ 10:06PM BLOOD Glucose-101* UreaN-21* Creat-0.9 Na-141 
K-3.8 Cl-104 HCO3-22 AnGap-15
___ 05:55AM BLOOD Glucose-101* UreaN-22* Creat-0.9 Na-140 
K-4.2 Cl-105 HCO3-22 AnGap-13
___ 06:45AM BLOOD Glucose-102* UreaN-19 Creat-0.9 Na-141 
K-4.4 Cl-104 HCO3-22 AnGap-15

Cardiac Enzymes:
___ 01:10AM BLOOD CK(CPK)-114
___ 10:06PM BLOOD cTropnT-0.05*
___ 01:10AM BLOOD CK-MB-2
___ 01:10AM BLOOD cTropnT-0.05*
___ 05:55AM BLOOD CK-MB-2
___ 05:55AM BLOOD cTropnT-0.05*
___ 11:54AM BLOOD CK-MB-2 cTropnT-0.05*
___ 09:15PM BLOOD CK-MB-2 cTropnT-0.04*

Electrolytes:
___ 05:55AM BLOOD Calcium-8.7 Phos-3.3 Mg-2.1
___ 06:45AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.2

___ 10:06PM BLOOD Lactate-1.1

IMAGING:
TTE (___):
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. There is normal left ventricular 
wall thickness with a normal cavity size. There is normal 
regional and global left ventricular systolic function. 
Quantitative 3D volumetric left ventricular ejection fraction is 
63 %. Left ventricular cardiac index is low normal (2.0-2.5 
L/min/m2). There is no resting left ventricular outflow tract 
gradient. Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) appear 
structurally normal. There is no aortic valve stenosis. There is 
trace aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is physiologic tricuspid 
regurgitation. The estimated
pulmonary artery systolic pressure is high normal. There is no 
pericardial effusion. IMPRESSION: Suboptimal image quality. 
Normal biventricular wall thicknesses, cavity sizes, and 
regional/global systolic function.

Stress Echo (___):
Quantitative biplane left ventricular ejection fraction is 56 %.
Indication: This ___ year-old female with hypertension, 
hyperlipidemia and non-obstructive coronary artery disease on 
angiography was referred for a stress test for evaluation of 
atypical chest pain and exertional
dyspnea. Medications: metoprolol 12.5 mg QD, isordil mononitrate 
30 mg QD, atorvastatin 80 mg QD, aspirin 81 mg QD escitalopram 
oxalate 20 mg QD, omeprazole 20 mg QD Type of stress/symptoms: 
At rest/pre-stress, the patient reported a ___ substernal chest 
pressure, which was at 4.5 minutes of exercise (82 bpm; 150/50 
mmHg). The patient exercised on a modified ___ treadmill (3 
min stages) protocol for 12 min 0 sec ___ METS) representing a 
good exercise capacity for age and gender. The test was stopped 
due to fatigue. At 6.5 minutes of exercise (93 bpm; 156/64 
mmHg), the patient reported the substernal chest pressure she 
had at rest returned albeit less intense (___) and then did not 
change throughout the remainder of the study. Hemodynamics: At 
rest, the blood pressure was 128/62 mmHg and the heart rate was 
63 bpm. In response to stress, the heart rate increased to 137 
bpm (87 % APMHR) with a peak systolic blood pressure of 210 mmHg 
(peak rate-pressure product = ___.

ECG: The resting ECG showed sinus rhythm and no STT wave 
changes. In addition there was left atrial enlargement. The 
stress ECG showed showed non-specific changes beginning at 11.75 
mintues of exercise with 0.5 mm slowly upsloping ST segment 
depression in the inferolateral leads (136 bpm; 210/60 mmHg). 
These changes resolved with rest and were absent by 1 minute 
post-exercise (96 bpm). During stress the rhythm was sinus and 
there were occasional to frequent atrial premature beats near 
peak exercise/early postexercise. 

Rest Echo: Resting echo images demonstrated mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional left ventricular systolic function and normal 
global systolic function. The right ventricular cavity size is 
normal with normal free wall motion. There is no pericardial 
effusion. Doppler
demonstrates no aortic valve stenosis, aortic regurgitation 
(cannot qualify), trivial mitral regurgitation and no resting 
left ventricular outflow tract gradient. The resting estimated 
pulmonary artery systolic pressure is high normal.

Stress Echo: Echo images were acquired within 58 sec post stress 
at heart rates of 123 to 95 bpm. These demonstrated new regional 
left ventricular systolic dysfunction with hypokinesis of the 
distal half of inferolateral wall. The remaining left 
ventricular segments augment appropriately. There was 
appropriate augmentation of right ventricular free wall motion.
Stress Conclusion: Good functional exercise capacity for age and 
gender. Non-specific ECG changes with non-anginal chest pain 2D 
echocardiographic evidence of inducible ischemia (single vessel 
disease - LCX distribution) to achieved treadmill stress. Normal 
resting blood pressure with a mildly exaggerated blood pressure 
and a blunted heart rate (beta blocker) response to achieved 
treadmill stress. Aortic regurgitation present at rest. High 
normal pulmonary artery systolic pressure at rest.
 
Brief Hospital Course:
SUMMARY:
___ with h/o GERD, HLD, presenting with intermittent chest 
pressure after acute episode of chest pressure, SOB, 
near-syncope on ___, elevated troponin (peak 0.05) c/f 
NSTEMI, with stress echo showing new regional left ventricular 
systolic dysfunction with hypokinesis of the distal half of the 
inferolateral wall.

# CORONARIES: diffuse slow flow consistent with microvascular 
dysfunction (___)
# PUMP: 63%
# RHYTHM: Sinus

ACUTE:
======
#Chest pressure #NSTEMI
Pt presented to ___ with intermittent chest pressure 
after acute episode of chest pressure, SOB, near-syncope on 
___ that resolved with nitro, no STE or acute etiologies on 
EKG, trop stably 0.05 since ___ at ___, CKMB flat at 2. 
Prior cath in ___ showing microvascular dysfunction without 
lesion requiring stenting. No acute events on telemetry or EKG. 
TTE at rest showing normal biventricular wall thicknesses, 
cavity sizes, and regional/global systolic function (EF 63%). 
Stress Echo after exercise showed mild left ventricular systolic 
dysfunction with hypokinesis of the distal half of the 
inferolateral wall similar to stress-ECHO of ___ years ago prior 
to cath.  Given that she was asymptomatic at a high work-load no 
further interventions were done. She was continued on her home 
ASA 81, atorvastatin 80, metoprolol succinate 50mg. Her home 
Imdur was increased from 30mg to 60mg.

CHRONIC:
========
#GERD: Continued home omeprazole

#Home Meds: Continued home escitalopram
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. Omeprazole 20 mg PO DAILY 
6. Escitalopram Oxalate 20 mg PO DAILY 

 
Discharge Medications:
1.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
RX *isosorbide mononitrate 60 mg 1 tablet(s) by mouth every day 
Disp #*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Escitalopram Oxalate 20 mg PO DAILY  
5.  Metoprolol Succinate XL 50 mg PO DAILY  
6.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
CHEST PAIN -ATYPICAL

SECONDARY DIAGNOSIS:
- GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. 

You were admitted to the hospital because:
- You had chest pressure and borderline cardiac enzymes (blood 
test to look for damage to your heart) concerning for heart 
attack

During your stay:
- Your EKG was normal
- You received IV heparin to prevent you from damage to your 
heart
- You had a stress test done which showed known abnormalities 
with exercise but these do not seem to be clinically 
significant, so do not require further workup at this time.

After you leave:
- Please continue to take your medications as prescribed.
- Please your outpatient follow up appointments per below

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___